US06046232
Synthesis of α-(4-Hexyloxyphenyl)-N-tert-butylnitrone
A solution of 4-hexyloxybenzaldehyde (3.83 g, 18.6 mmol) in 120 mL of benzene was refluxed with N-tert-butylhydroxylamine (3.32 g, 37.2 mmol) for 18 hours. The reaction mixture was then concentrated by rotary evaporation and the resulting residue was purified by silica gel column chromatography using 50:50 ethyl acetate/hexane to afford the title compound (2.88 g, 55.8 % yield) as a solid, m.p. 69.0° C.

reactant | 4-hexyloxybenzaldehyde | 18.6 mmol, 3.83 g | C(CCCCC)OC1=CC=C(C=O)C=C1 | C13H18O2
reactant | N-tert-butylhydroxylamine | 37.2 mmol, 3.32 g | C(C)(C)(C)NO | C4H11NO
solvent | benzene | 120 mL | C1=CC=CC=C1 | C6H6
product | α-(4-Hexyloxyphenyl)-N-tert-butylnitrone | 2.88 g, 55.8 % yield | C(CCCCC)OC1=CC=C(C=C1)C=[N+]([O-])C(C)(C)C | C17H27NO2
